US05371223
85% Potassium hydroxide powders (2.18 g; 0.033 mol, 1.1 equimolar amount) were added to phenol (4.23 g; 0.045 mol, 1.5 eq.) under heating, and 1,2-dichlorobenzene (4.41 g; 0.03 mol) and copper(I) iodide (0.29 g; 0.0015 mol) were added thereto, followed by stirring at 160° C. for 24 hours. The reaction mixture was diluted with water and extracted with ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with a mixture of benzene and n-hexane to give 3.48 g (yield, 56.7%) of 2-chlorodiphenyl ether as colorless crystals. m.p., 33° to 41° C.

reactant | Potassium hydroxide | 0.033 mol, 2.18 g | [OH-].[K+]
reactant | phenol | 0.045 mol, 4.23 g, 1.5 eq. | C1(=CC=CC=C1)O | C6H6O
reactant | 1,2-dichlorobenzene | 0.03 mol, 4.41 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | O | H2O
catalyst | copper(I) iodide | 0.0015 mol, 0.29 g | [Cu]I
product | 2-chlorodiphenyl ether | 3.48 g, 56.7% | C1=CC=C(C=C1)OC2=CC=CC=C2Cl | C12H9ClO
